US06342511B1
(±)-N-[4-(2-benzothiophenyl)-tetrahydro-4H-thiopyran-4-yl]-3-methyl-piperidine
4-(3-methyl-piperidino)-tetrahydro-4H-thiopyran-4-carbonitrile (2 g, 8.9 mmoles) dissolved in 50 ml of anhydrous ether is introduced dropwise into a 2-benzothiophenylmagnesium bromide (44.7 mmoles) solution. Ether is heated under reflux for 20 hours. After the usual treatment, a brown oil is obtained (1.7 g) which is chromatographed on 60 g of alumina eluting with an EP/EA (95/5) mixture. In this way, a white solid is obtained (1.2 g, 40%).

reactant | 4-(3-methyl-piperidino)-tetrahydro-4H-thiopyran-4-carbonitrile | 8.9 mmoles, 2 g | CC1CN(CCC1)C1(CCSCC1)C#N | C12H20N2S
reactant | 2-benzothiophenylmagnesium bromide | 44.7 mmoles | S1C(=CC2=C1C=CC=C2)[Mg]Br
solvent | ether | 50 ml | CCOCC | C4H10O
product | (±)-N-[4-(2-benzothiophenyl)-tetrahydro-4H-thiopyran-4-yl]-3-methyl-piperidine | S1C(=CC2=C1C=CC=C2)C2(CCSCC2)N2CC(CCC2)C | C19H25NS2
